US07786132B2
(iii) 4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylthio)pyrimidine
1-(5-Bromothiophen-2-yl)-3-(dimethylamino)-2-methylprop-2-en-1-one (6.39 g, 23 mmol) was dissolved in isopropyl alcohol (30 mL) at room temperature. Thiourea (1.748 g, 23 mmol) followed by potassium tert-butoxide (23 mL of a 1.0 M solution in tetrahydrofuran) was added to the mixture, which was then heated to reflux overnight. The reaction was cooled to rt and iodomethane (2.86 mL, 46 mmol) was added to the reaction in one portion. The mixture was subsequently stirred for an additional 6 h. The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, reduced in vacuo and purified by column chromatography on silica gel using a gradient of 10 to 40% of ethyl acetate in hexanes to yield a yellow solid (5 g). MS (M+H)+ 302.

reactant | 1-(5-Bromothiophen-2-yl)-3-(dimethylamino)-2-methylprop-2-en-1-one | 23 mmol, 6.39 g | BrC1=CC=C(S1)C(C(=CN(C)C)C)=O | C10H12BrNOS
reactant | Thiourea | 23 mmol, 1.748 g | NC(=S)N | CH4N2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | iodomethane | 46 mmol, 2.86 mL | IC | CH3I
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylthio)pyrimidine | 5 g | BrC1=CC=C(S1)C1=NC(=NC=C1C)SC | C10H9BrN2S2
